US04891453
The procedures of Example 12 were repeated except that 10.0 g of reaction solution (1) obtained in Example 12, 0.1 g of phenol (solvent) and 0.04 g of sulfuric acid (catalyst) were added to the whole portion of mother liquor (I) obtained in Example 12 and that reaction was performed at 185° C. for 3 hours to produce p,p'-biphenol.

reactant | phenol | 0.1 g | C1(=CC=CC=C1)O | C6H6O
reactant | sulfuric acid | 0.04 g | S(O)(O)(=O)=O | H2O4S
product | p,p'-biphenol | yield was 91% | C1=CC(=CC=C1C2=CC=C(C=C2)O)O | C12H10O2
